US07151105B2
6-{2-[4-(Aminomethyl)-3-ethylphenyl]ethyl}-6-cyclopentyl-3-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-5,6-dihydro-2H-pyran-2-one hydrochloride
tert-Butyl 4-(2-{2-cyclopentyl-5-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)-2-ethylbenzylcarbamate (35 mg, 0.06 mmol, example A(126)) was dissolved in dichloromethane (1 mL) and 4N HCl in dioxane (0.5 mL) and stirred at room temperature 2 h. The solution was concentrated to give an off-white solid (30 mg, 96%). 1H NMR (300 MHz, CDCl3): δ ppm 1.14 (t, J=7.54 Hz, 3 H) 1.37–1.49 (m, 1 H) 1.52–1.66 (m, 6 H), 1.67–1.77 (m, 2 H) 2.05–2.16 (m, 2 H) 2.58 (s, 4 H) 2.60–2.70 (m, 6 H) 2.74–2.80 (m, 1 H), 3.80 (d, J=14.51 Hz, 2 H) 4.02 (q, J=5.78 Hz, 2 H) 7.07 (s, 1 H) 7.13 (s, 1 H) 7.16–7.21 (m, 1 H) 7.32 (d, J=7.72 Hz, 1 H) 8.15 (s, 3 H). MS (ESI): 504 (M+H)+.

reactant | tert-Butyl 4-(2-{2-cyclopentyl-5-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)-2-ethylbenzylcarbamate | 0.06 mmol, 35 mg | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=NN2C(N=C(C=C2C)C)=N1)=O)CCC1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)CC | C34H45N5O5
reactant | HCl | 4N | Cl | ClH
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 6-{2-[4-(Aminomethyl)-3-ethylphenyl]ethyl}-6-cyclopentyl-3-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-5,6-dihydro-2H-pyran-2-one hydrochloride | 30 mg, 96% | Cl.NCC1=C(C=C(C=C1)CCC1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2C)C)=N1)O)C1CCCC1)CC | InChI=1S/C29H37N5O3.ClH/c1-4-21-14-20(9-10-22(21)17-30)11-12-29(23-7-5-6-8-23)16-25(35)24(27(36)37-29)15-26-32-28-31-18(2)13-19(3)34(28)33-26;/h9-10,13-14,23,35H,4-8,11-12,15-17,30H2,1-3H3;1H
